US05760054
A solution of 1 g of 2-(4-(2-tetrahydropyranyloxy)butyl)-isothiazolo[5,4-c]pyridin-3(2H)-one and 0.1 g of p-toluenesulfonic acid monohydrate in 50 mL of methanol was stirred overnight at ambient temperature and concentrated to dryness under reduced pressure. The residue was dissolved in 200 mL of ethyl acetate, washed with 4 mL of saturated sodium bicarbonate, dried over MgSO4 and concentrated under reduced pressure. Drying under vacuum overnight gave 0.73 g (78%) of 2-(4-hydroxybutyl)-isothiazolo[5,4-c]pyridin-3(2H)-one as an oil: 1H NMR (400 MHz, CDCl3): 9.28 (s, 1H), 9.15 (d, J=5 Hz, 1H), 7.98 (d, J=5Hz, 1H), 3.86 (t, J=7.5 Hz, 2H), 3.71 (t, J=6.4 Hz, 2H), 2.36 (br s, 1H), 1.98 (m, 2H), 1.27 (m, 2H).

reactant | 2-(4-(2-tetrahydropyranyloxy)butyl)-isothiazolo[5,4-c]pyridin-3(2H)-one | 1 g | O1C(CCCC1)OCCCCN1SC2=CN=CC=C2C1=O | C15H20N2O3S
reactant | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 50 mL | CO | CH4O
product | 2-(4-hydroxybutyl)-isothiazolo[5,4-c]pyridin-3(2H)-one | 0.73 g, 78% | OCCCCN1SC2=CN=CC=C2C1=O | C10H12N2O2S
